US07256215B2
To a solution of 28.42 g of 3-(4-benzyloxy-2-methoxy-methoxyphenyl)propionamide and 40.4 mL of 1,8-diazabicyclo-[5.4.0]-7-undecene in 895 mL of methanol was added 16.04 g of N-bromosuccinimide at 65° C. After the mixture was stirred at 65° C. for 15 minutes, to the reaction mixture was added additional 16.04 g of N-bromosuccinimide at 65° C. After being stirred at 65° C. for 15 minutes, the resultant mixture was concentrated under reduced pressure to remove the solvent. To the residue were added water and ethyl acetate, and the organic layer was separated. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure to give an oily product. To a solution of this residue in 242 mL of ethanol was added 67.6 mL of 8 mol/L aqueous potassium hydroxide solution, and the mixture was refluxed for 15 hours. The reaction mixture was concentrated under reduced pressure to remove the solvent. To the residue were added 500 mL of ethyl acetate, 50 mL of toluene and 300 mL of water, and the organic layer was separated. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure, and the residue was purified by medium pressure liquid column chromatography on silica gel (eluent: hexane-ethyl acetate) to give 80.0 g of 2-(4-benzyloxy-2-methoxymethoxy phenyl)ethylamine as a colorless oil.

reactant | 3-(4-benzyloxy-2-methoxy-methoxyphenyl)propionamide | 28.42 g | C(C1=CC=CC=C1)OC1=C(C(=C(C=C1)CCC(=O)N)OC)OC | C18H21NO4
reactant | N-bromosuccinimide | 16.04 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-bromosuccinimide | 16.04 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | potassium hydroxide | 8 mol/L, 67.6 mL | [OH-].[K+]
reactant | ethanol | 242 mL | C(C)O | C2H6O
solvent | methanol | 895 mL | CO | CH4O
product | 2-(4-benzyloxy-2-methoxymethoxy phenyl)ethylamine | 80.0 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)CCN)OCOC | C17H21NO3
